US05877120
Preparation of 2-(4,6-dimethoxypyridin-2-ylcarbonyl)-3-(imidazol-1-ylcarbonyl)-4-phenylpyridine (Compound No. 112)
1.5 g of 7-(4,6-dimethoxypyridin-2-yl)-7-hydroxy-4-phenylfuro[3,4-b]pyridin-5(7H)one was dissolved in 20 ml of tetrahydrofuran, and 0.6 g of N,N-carbonyldiimidazole was added thereto. After stirred at room temperature for 2 days, the reaction solution was poured into water and extracted with ethyl acetate. The extract was sufficiently washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the resulting residue was crystallized from isopropyl ether to obtain 1.3 g (yield 76.5%) of the desired compound. m.p.: 126°-128° C.

reactant | 7-(4,6-dimethoxypyridin-2-yl)-7-hydroxy-4-phenylfuro[3,4-b]pyridin-5(7H)one | 1.5 g | COC1=CC(=NC(=C1)OC)C1(OC(C=2C1=NC=CC2C2=CC=CC=C2)=O)O | C20H16N2O5
reactant | N,N-carbonyldiimidazole | 0.6 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(4,6-dimethoxypyridin-2-ylcarbonyl)-3-(imidazol-1-ylcarbonyl)-4-phenylpyridine | 1.3 g, yield 76.5% | COC1=CC(=NC(=C1)OC)C(=O)C1=NC=CC(=C1C(=O)N1C=NC=C1)C1=CC=CC=C1 | C23H18N4O4
